US08106066B2
A solution of triphosgene (190 mmol) in dichloromethane (200 mL) was added dropwise over 20 min to a solution of 3-methylisothiazolo[5,4-b]pyridine-N-oxide (47.4 mmol) in dichloromethane (150 mL) at −20° C. A solution of diisopropylamine (190 mmol) in dichloromethane (200 mL) was added dropwise over 1 h. The reaction mixture was allowed to warm to rt and was maintained for 16 h. The reaction mixture was quenched with water (40 mL) of water and the pH was adjusted to 7 by the addition of 10% sodium hydroxide. The organic layer was washed with water (100 mL). The combined aqueous layers were extracted with dichloromethane (10×100 mL) and the combined organic layers were dried (magnesium sulfate) and concentrated. The residue was purified by chromatography (1/80 ethyl acetate/petroleum ether) to provide 6-chloro-3-methylisothiazolo[5,4-b]pyridine in 46% yield as a colorless solid.

reactant | triphosgene | 190 mmol | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-methylisothiazolo[5,4-b]pyridine-N-oxide | 47.4 mmol | CC1=[N+](SC2=NC=CC=C21)[O-] | C7H6N2OS
reactant | diisopropylamine | 190 mmol | C(C)(C)NC(C)C | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 6-chloro-3-methylisothiazolo[5,4-b]pyridine | 46% yield | ClC1=CC=C2C(=N1)SN=C2C | C7H5ClN2S
